US07557103B2
Preparation of {3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridin-8-yl}-methanol
A solution of 3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridine-8-carboxaldehyde (0.33 g, 0.89 mmol) in CH3OH 910 ml) is treated with NaBH4 (37 mg, 0.98 mmol), and stirred at RT for 30 min. It is quenched with sat. NH4Cl (5 mL), the organic solvent is removed in vacuo, and the residue is diluted with H2O (10 mL) ppm. The aqueous layer is extracted with EtOAC (2×30 mL); the combined organic layers is dried with Na2SO4; filtered and concentrated to give the title compound (0.29 g, 0.78 mmol, 87%). 1H NMR (CDCl3): δ. 0.90 (t, J=7.0 Hz, 3H), 0.91 (t, J=7.0 Hz, 3H), 1.78-1.98 (m, 4H), 2.42 (s, 3H), 2.43 (s, 3H), 2.45 (s, 3H), 3.36-3.42 (m, 1H), 4.39 (bs, 1H), 5.11 (s, 2H), 6.73 (d, J=5.7 Hz, 1H), 6.73 (s, 1H), 7.17 (d, J=6.6 Hz, 1H), 7.46 (d, J=6.6 Hz, 1H) ppm. ES-MS (m/z): calcd for C22H27N5O (M+H)+: 378.5. found: 378.3.

reactant | 3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridine-8-carboxaldehyde | 0.89 mmol, 0.33 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1C=O)C | C22H25N5O
reactant | NaBH4 | 0.98 mmol, 37 mg | [BH4-].[Na+]
solvent | CH3OH | 910 ml | CO | CH4O
product | {3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridin-8-yl}-methanol | 0.78 mmol, 0.29 g, 87% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1CO)C | C22H27N5O
